US08911537B2
4-(4-aminophenyl)butyric acid (6 g, 3.36 mmol) was added to a 200 mL three-mouthed round flask, and methylene chloride (100 mL) was added and dissolved under the nitrogen atmosphere at 40° C. To the solution was added chlorotrimethyl silane (6.0 mL). The solution was refluxed and agitated for 2 hours and, after reaction, cooled down to the room temperature. While kept at 0 to 5° C. on an ice bath under the nitrogen atmosphere, an acid eliminator (in an excess amount by 10% in concentration relative to the reactant) was added dropwise through a funnel for 10 minutes, where the acid eliminator contained imidazole and tetraethyl amine mixed at the same mole fraction. In the same manner, a solution containing acryloyl chloride (2.8 mL) in methylene chloride (30 mL) was added dropwise for 20 minutes, and the solution was kept for 30 minutes of reaction and then warmed up to the room temperature for 2 more hours of reaction. After the solvent was removed, 2M sodium hydroxide solution (200 mL) was added, and the solution was stirred for 2 hours. The aqueous solution was weak-acidified (pH 5-6) with a 2M hydrogen chloride solution to form an aqueous solution containing a white precipitate. This solution was added to a separatory funnel along with ethylacetate (200 mL) and shaken up to cause phase separation into aqueous and ethylacetate layers. The solvent in the ethylacetate layer where the product is dissolved was removed on an evaporator, and the residual solid was dried out in a vacuum oven for 24 hours to yield a white 4-(4-acrylaminophenyl)butyric acid (APB) solid (yield 92%). The melting point of the solid was 107° C.

reactant | 4-(4-aminophenyl)butyric acid | 3.36 mmol, 6 g | NC1=CC=C(C=C1)CCCC(=O)O | C10H13NO2
reactant | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
reactant | chlorotrimethyl silane | 6.0 mL | Cl[Si](C)(C)C | C3H9ClSi
solvent | ethylacetate | 200 mL | C(C)OC(C)=O | C4H8O2
product | 4-(4-acrylaminophenyl)butyric acid | yield 92% | C(=O)(C=C)NC1=CC=C(C=C1)CCCC(=O)O | C13H15NO3
